US08703796B2
(154b) 6-Amino-5-nitro-nicotinoyl chloride
6-amino-5-nitro-nicotinic acid (2.50 g, 13.7 mmol) was mixed with 50 mL thionyl chloride and refluxed for 2 h. The mixture was concentrated and the residue reacted without further purification.

reactant | 6-amino-5-nitro-nicotinic acid | 13.7 mmol, 2.50 g | NC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H5N3O4
reactant | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-Amino-5-nitro-nicotinoyl chloride | NC1=NC=C(C(=O)Cl)C=C1[N+](=O)[O-] | C6H4ClN3O3
